US09340538B2
Step B: 1-methyl-1H-1,2,4-triazole-3-carboximidamide hydrochloride
1-methyl-1H-1,2,4-triazole-3-carbonitrile (20 g, 185 mmol) was reacted with sodium methoxide (14 g, 295 mmol) and ammonium chloride (14.8 g, 277.5 mmol) according to the procedure as described in Example 61, Step B to give the title compound as a white solid (23.44 g, 78.8%). The compound was characterized by the following spectroscopic data:

reactant | 1-methyl-1H-1,2,4-triazole-3-carbonitrile | 185 mmol, 20 g | CN1N=C(N=C1)C#N | C4H4N4
reactant | sodium methoxide | 295 mmol, 14 g | C[O-].[Na+]
reactant | ammonium chloride | 277.5 mmol, 14.8 g | [Cl-].[NH4+]
product | 1-methyl-1H-1,2,4-triazole-3-carboximidamide hydrochloride | 23.44 g, 78.8% | Cl.CN1N=C(N=C1)C(N)=N | InChI=1S/C4H7N5.ClH/c1-9-2-7-4(8-9)3(5)6;/h2H,1H3,(H3,5,6);1H
